US04008240
α,α'-Bis(3-piperidinopropyl)xanthene -2,7-dimethanol
To a cooled, stirred solution of 25.6 g (0.053 moles) of 2,7-bis(4-piperidinobutyryl)xanthene dissolved in 200 ml of tetrahydrofuran is added a solution of 4.2 g (0.11 moles) of sodium borohydride contained in a solution of 50 ml of methanol and 5 ml of a 10% sodium hydroxide solution. The resulting mixture is allowed to warm gradually to room temperature and stirring continued overnight. The reaction mixture is diluted with water and the solid which forms is filtered, washed with water and air dried. The solid product is dissolved in a 10% hydrochloric acid solution, filtered and the filtrate made alkaline with a 10% sodium hydroxide solution. The alkaline filtrate is extracted with methylene chloride. The organic extract is then washed with water, followed by a wash of saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated to dryness in vacuo. The residue containing the desired α,α'-bis(3-piperidinopropyl)xanthene-2,7-dimethanol is recrystallized twice from benzene to yield a product having a m.p. of 145°-6° C.

reactant | 2,7-bis(4-piperidinobutyryl)xanthene | 0.053 moles, 25.6 g | N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCN1CCCCC1)=O | C31H40N2O3
reactant | sodium borohydride | 0.11 moles, 4.2 g | [BH4-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | α,α'-Bis(3-piperidinopropyl)xanthene -2,7-dimethanol | N1(CCCCC1)CCCC(O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(O)CCCN1CCCCC1 | C31H44N2O3
